US07642264B2
2-(1-{3-[6′-Methyl-4′-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-benzenesulfonyl}-piperidin-4-yloxy)-ethanol
The title compound was prepared from 3-[6′-methyl-4′-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-benzenesulfonyl chloride (example I.2) (0.200 g, 0.409 mmol) by treatment with 4-(2-hydroxyethoxy)piperidine [CAS-no. 40256-14-2] (0.297 g, 2.05 mmol) in THF (5 mL) at 23° C. for 16 h. Diluted with EtOAc, washed with 5% citric acid, sat. NaHCO3-sol. and brine, dried organic layer over Na2SO4. Removal of the solvent in vacuum left a crude product, which was purified by silica gel column chromatography with EtOAc followed by trituration with diethyl ether/heptane to give the title compound (0.120 g, 49%) as a white foam. MS (ISP) 598.3 [(M+H)+].

reactant | 3-[6′-methyl-4′-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-benzenesulfonyl chloride | 0.409 mmol, 0.200 g | CC1=CC(=CC(=N1)C1=NC(=CC=C1)C=1C=C(C=CC1)S(=O)(=O)Cl)C1=CC=C(C=C1)C(F)(F)F | C24H16ClF3N2O2S
reactant | 4-(2-hydroxyethoxy)piperidine | 2.05 mmol, 0.297 g | OCCOC1CCNCC1 | C7H15NO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(1-{3-[6′-Methyl-4′-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-benzenesulfonyl}-piperidin-4-yloxy)-ethanol | 0.120 g, 49% | CC1=CC(=CC(=N1)C1=NC(=CC=C1)C=1C=C(C=CC1)S(=O)(=O)N1CCC(CC1)OCCO)C1=CC=C(C=C1)C(F)(F)F | C31H30F3N3O4S
